US08207164B2
l) 5-Bromo-pyridine-2-carboxylic acid [3-((3R*,6R*)-5-amino-3,6-dimethyl-6-tri-fluoromethyl-3,6-dihydro-2H-[1,4]oxazin-3-yl)-phenyl]-amide hydrochloride
((2R*,5R*)-5-{3-[(5-bromo-pyridine-2-carbonyl)-amino]-phenyl}-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester (0.113 g, 0.194 mmol) was dissolved in THF (1 ml) and 4N HCl (5 ml) and the reaction mixture was stirred for 2 h at 25° C. and 3 h at 40° C. The solvents were removed under reduced pressure and the resulting residue was titurated with Et2O to provide the title compound as a white amorphous solid: TLC (EtOAc/MeOH 9:1): Rf=0.56; HPLC RtH5=1.147 min; 1H NMR (600 MHz, DMSO-d6): δ 11.45 (s, 1H), 10.81 (s, 1H), 9.74 (d, 2H), 8.88 (dd, 1H), 8.34 (dd, 1H), 8.10 (d, 1H), 8.01 (d, 1H), 7.95 (s, 1H), 7.46 (t, 1H), 7.27 (d, 1H), 4.13 (d, 1H), 4.05 (d, 1H), 1.81 (s, 3H), 1.69 (s, 3H); ESIMS: 471, 473 [(M+H)+].

reactant | ((2R*,5R*)-5-{3-[(5-bromo-pyridine-2-carbonyl)-amino]-phenyl}-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester | 0.194 mmol, 0.113 g | C(C)(C)(C)OC(NC=1[C@@](OC[C@@](N1)(C)C1=CC(=CC=C1)NC(=O)C1=NC=C(C=C1)Br)(C(F)(F)F)C)=O | C24H26BrF3N4O4
reactant | HCl | 4N, 5 ml | Cl | ClH
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 5-Bromo-pyridine-2-carboxylic acid [3-((3R*,6R*)-5-amino-3,6-dimethyl-6-tri-fluoromethyl-3,6-dihydro-2H-[1,4]oxazin-3-yl)-phenyl]-amide hydrochloride | Cl.NC1=N[C@](CO[C@]1(C(F)(F)F)C)(C)C=1C=C(C=CC1)NC(=O)C1=NC=C(C=C1)Br | InChI=1S/C19H18BrF3N4O2.ClH/c1-17(10-29-18(2,16(24)27-17)19(21,22)23)11-4-3-5-13(8-11)26-15(28)14-7-6-12(20)9-25-14;/h3-9H,10H2,1-2H3,(H2,24,27)(H,26,28);1H/t17-,18+;/m0./s1
